US06642386B2
A solution of 340 mg (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-3-(1-methyl-piperidin-4-ylmethoxy)-phenyl]-acetic acid ethyl ester acetate in 5 ml THF was treated with 2.8 ml 1N LiOH and stirred at room temperature for 2 hours. The reaction mixture was neutralized with acetic acid and evaporated in vacuo. The residue was stirred in 1.5 ml of water. Suction filtration and drying gave 173 mg (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-3-(1-methyl-piperidin-4-ylmethoxy)-phenyl]-acetic acid. Mp.: 232° C. Light brown solid. MS: 459 ([M+H]+).

reactant | (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-3-(1-methyl-piperidin-4-ylmethoxy)-phenyl]-acetic acid ethyl ester acetate | 340 mg | C(C)(=O)O.C(C)OC(C(C1=C(C(=CC(=C1)OCC)OCC1CCN(CC1)C)F)NC1=CC=C(C=C1)C(N)=N)=O
reactant | LiOH | 1N, 2.8 ml | [Li+].[OH-]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-3-(1-methyl-piperidin-4-ylmethoxy)-phenyl]-acetic acid | 173 mg | C(N)(=N)C1=CC=C(C=C1)NC(C(=O)O)C1=C(C(=CC(=C1)OCC)OCC1CCN(CC1)C)F | C24H31FN4O4
